US08497264B2
A sealable vial was charged with (S)-2-(5-amino-3-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-3,6-dihydro-2H-1,4-oxazin-3-yl)-4-bromophenol (234 mg, 0.482 mmol), cesium carbonate (471 mg, 1.445 mmol) and copper chloride (9.54 mg, 0.096 mmol The vial was evacuated and back-filled with nitrogen. NMP (1.5 mL) was added and the vial was evacuated and backfilled with nitrogen. 2,2,6,6-Tetramethyl-3,5-heptanedione (0.080 mL, 0.385 mmol) was added and the reaction mixture was heated to 120° C. for 1 h. The reaction mixture was cooled to room temperature, diluted with EtAOc and filtered through a pad of silica gel. The solvent was removed under reduced pressure and the residue was purified by preparative reversed-phase preparative HPLC using a Phenomenex Gemini column, 10 micron, C18, 110 Å, 100×50 mm, 0.1% TFA in CH3CN/H2O, gradient 10% to 100% over 20 min to obtain 68 mg of (S)-7-bromo-1-fluoro-3-morpholino-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine.TFA.

reactant | (S)-2-(5-amino-3-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-3,6-dihydro-2H-1,4-oxazin-3-yl)-4-bromophenol | 0.482 mmol, 234 mg | NC1=N[C@](COC1)(C1=C(C(=NC(=C1)N1CCOCC1)F)Cl)C1=C(C=CC(=C1)Br)O | C19H19BrClFN4O3
reactant | cesium carbonate | 1.445 mmol, 471 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-Tetramethyl-3,5-heptanedione | 0.385 mmol, 0.080 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
catalyst | copper chloride | [Cu](Cl)Cl
product | (S)-7-bromo-1-fluoro-3-morpholino-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 68 mg | BrC=1C=C2C(=CC1)OC=1C(=NC(=CC1[C@]21COCC(=N1)N)N1CCOCC1)F | C19H18BrFN4O3
